US04237128
(b) (1-Diphenylmethoxycarbonyl-1-methylethoxy)phthalimide
The reaction mixture is then poured into water slowly with stirring and a white solid forms which is filtered after 30 minutes. The precipitate is collected, dissolved in dichloromethane, washed with water, dried, filtered, and concentrated in vacuo to a small volume. The crystals that form are collected and dried over P2O5 in vacuo to yield 53.82 g. of (1-diphenylmethoxycarbonyl-1-methylethoxy)phthalamide.

reactant | (1-diphenylmethoxycarbonyl-1-methylethoxy)phthalamide | C1(=CC=CC=C1)C(OC(=O)C(C)(OC1=C(C(C(=O)N)=CC=C1)C(=O)N)C)C1=CC=CC=C1 | C25H24N2O5
solvent | water | O | H2O
product | (1-Diphenylmethoxycarbonyl-1-methylethoxy)phthalimide | C1(=CC=CC=C1)C(OC(=O)C(C)(OC1=C2C(C(=O)NC2=O)=CC=C1)C)C1=CC=CC=C1 | C25H21NO5
